US08455477B2
To a solution of tert-butyl 3-formylazetidine-1-carboxylate (96 g, 0.46 mol) and potassium carbonate (128 g, 0.924 mol) in methanol was added dropwise dimethyl-1-diazo-2-oxopropylphosphonate (67 g, 0.35 mol) in 1.6 L of methanol. The mixture was stirred for 2 h and filtered. The filtrate was concentrated and the residue was diluted with 800 ml of methyl-tert-butyl ether and 1 L of 5% w/w aqueous sodium bicarbonate. The layers were separated and the aqueous layer was washed with methyl-tert-butyl ether (2×500 ml). The combined organic layers were dried over magnesium sulfate, filtered and concentrated. The residue was purified by flash column chromatography to afford tert-butyl 3-ethynylazetidine-1-carboxylate.

reactant | tert-butyl 3-formylazetidine-1-carboxylate | 0.46 mol, 96 g | C(=O)C1CN(C1)C(=O)OC(C)(C)C | C9H15NO3
reactant | potassium carbonate | 0.924 mol, 128 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl-1-diazo-2-oxopropylphosphonate | 0.35 mol, 67 g | CC(C(C(=[N+]=[N-])P([O-])([O-])=O)=O)C
solvent | methanol | CO | CH4O
solvent | methanol | 1.6 L | CO | CH4O
product | tert-butyl 3-ethynylazetidine-1-carboxylate | C(#C)C1CN(C1)C(=O)OC(C)(C)C | C10H15NO2
